US07074782B2
Method F: 4′-Chloro-2-nitrobiphenyl
To a solution of 2-bromonitrobenzene (646 mg) in THF (17 ml) under nitrogen was added tetrakis(triphenylphosphine)palladium (0) (900 mg). The resulting mixture was stirred at room temperature for 20 min, then a solution of 4-chlorophenylboronic acid (1.0 g) in ethanol (17 ml) was added and the resulting mixture stirred at room temperature for 1 hr. 2M sodium carbonate (17 ml) was then added and the reaction heated to reflux for 2 hrs. The mixture was then allowed to cool and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (100 ml) and the aqueous layer removed. The organic phase was washed with brine (20 ml), dried (magnesium sulfate), filtered and concentrated. The reside was purified by flash chromatography (0–10% ethyl acetate/hexane) to afford the sub-title compound as a yellow solid (646 mg): 1H NMR (400 MHz, CDCl3) δ 7.24–7.31 (2H, m), 7.41–7.47 (3H, m), 7.52 (1H, m), 7.65 (1H, m), 7.90 (1H, d).

reactant | 2-bromonitrobenzene | 646 mg | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 4-chlorophenylboronic acid | 1.0 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 17 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | ethanol | 17 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 900 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-Chloro-2-nitrobiphenyl | 646 mg | ClC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO2
